US08466143B2
To a solution of thiophene-3-acetonitrile (6.15 g, 50 mmol) and MeI (12.5 mL, 4 equiv) in DMF (200 mL) was added sodium hydride (6 g, 60%, 3 equiv) at 0° C. under nitrogen and the reaction mixture was stirred for 3 h at 0° C. It was then quenched with water and extracted with hexane (3×100 mL). The combined organic layer was washed with water and dried over MgSO4. Evaporation of solvent afforded 2-methyl-2-thiophen-3-yl-propionitrile as an oil, which was used in next step without further purification. 1H-NMR(CDCl3): δ 8.02 (1H, m), 7.35 (1H, dd), 7.12 (1H, dd), 2.96 (3H, s), 2.89 (3H, s).

reactant | thiophene-3-acetonitrile | 50 mmol, 6.15 g | S1C=C(C=C1)CC#N | C6H5NS
reactant | MeI | 12.5 mL, 4 equiv | CI | CH3I
reactant | sodium hydride | 6 g, 3 equiv | [H-].[Na+]
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2-thiophen-3-yl-propionitrile | CC(C#N)(C)C1=CSC=C1 | C8H9NS
